US05817849
Preparation of (tetramethylcyclopentadienyl)(diphenylmethyl)dimethylsilane-zirconium dichloride
(Tetramethylcyclopentadienyl)(diphenylmethyl)dimethylsilane dipotassium salt (3.00 g, 7.10 mmol) was combined with 1.654 grams of zirconium tetrachloride in 150 mL of toluene at about 25° C. The reaction mixture was stirred overnight at about 25° C., and then filtered. The solvent was removed under vacuum. The residue was washed with hexane and filtered, washed again with hexane and dried to give the desired product as a red-orange solid.

reactant | (Tetramethylcyclopentadienyl)(diphenylmethyl)dimethylsilane dipotassium salt | 7.10 mmol, 3.00 g | [K].[K].CC=1C(=C(C(C1)(C)[Si](C)(C)C(C1=CC=CC=C1)C1=CC=CC=C1)C)C
reactant | zirconium tetrachloride | 1.654 grams | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (tetramethylcyclopentadienyl)(diphenylmethyl)dimethylsilane zirconium dichloride | CC=1C(=C(C(C1)(C)[Si](C)(C)C(C1=CC=CC=C1)C1=CC=CC=C1)C)C.[Cl-].[Cl-].[Zr+2] | InChI=1S/C24H30Si.2ClH.Zr/c1-18-17-24(4,20(3)19(18)2)25(5,6)23(21-13-9-7-10-14-21)22-15-11-8-12-16-22;;;/h7-17,23H,1-6H3;2*1H;/q;;;+2/p-2
